US07935722B2
2-Chloromethyl-5-fluoro-pyridine hydrochloride salt
Add thionyl chloride (320 μL, 4.30 mmol) slowly to a 0° C. solution of (5-fluoro-pyridin-2-yl)-methanol (420 mg, 3.31 mmol) in methylene chloride (15 mL). Stir the reaction at 0° C. for 3 h and quench with isopropyl alcohol. Dilute the reaction contents with methylene chloride (50 mL) and then saturated aqueous sodium bicarbonate (20 mL). Separate the organic phase, dry(magnesium sulfate), filter and concentrate in vacuo to give an oil. The oil is treated with hydrochloric acid (10 mL, 3 M solution in dioxane) at room temperature for 30 min. The resultant solid is collected by filtration and washed with a minimal amount of cold diethyl ether to give 200 mg (33%) as a yellow solid. MS (APCI): m/z 146 [C6H5ClFN+H]+; 1H NMR (300 MHz, CDCl3): δ 8.42 (s, 1H), 7.56-7.37 (m, 2H), 4.67 (s, 2H).

reactant | thionyl chloride | 4.30 mmol, 320 μL | S(=O)(Cl)Cl | Cl2OS
reactant | (5-fluoro-pyridin-2-yl)-methanol | 3.31 mmol, 420 mg | FC=1C=CC(=NC1)CO | C6H6FNO
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 3 M, 10 mL | Cl | ClH
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloromethyl-5-fluoro-pyridine hydrochloride salt | Cl.ClCC1=NC=C(C=C1)F | InChI=1S/C6H5ClFN.ClH/c7-3-6-2-1-5(8)4-9-6;/h1-2,4H,3H2;1H
